US08252833B2
{4-[4,9-Bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-2-fluorophenyl}acetic acid
Ethyl {4-[4,9-bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-2-fluorophenyl}acetate (20.2 g, 44.8 mmol) was suspended in ethanol (450 ml) and treated with 2N sodium hydroxide (150 ml). The mixture was heated under reflux for 1 hour then cooled, and concentrated in vacuo to ˜200 ml, then acidified with 2N hydrochloric acid. The white solid was collected by filtration, washed with water (500 ml) and dried in a vacuum oven to yield the title compound as a cream solid (18.45 g, 43.6 mmol).

reactant | Ethyl {4-[4,9-bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-2-fluorophenyl}acetate | 44.8 mmol, 20.2 g | C(C)OC1=C2C(=C(C=3C(N(CC13)C1=CC(=C(C=C1)CC(=O)OCC)F)=O)OCC)C=CC=C2 | C26H26FNO5
reactant | sodium hydroxide | 2N, 150 ml | [OH-].[Na+]
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | {4-[4,9-Bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-2-fluorophenyl}acetic acid | 43.6 mmol, 18.45 g | C(C)OC1=C2C(=C(C=3C(N(CC13)C1=CC(=C(C=C1)CC(=O)O)F)=O)OCC)C=CC=C2 | C24H22FNO5
